US05616599
Ethyl 1-[(2'-t-butoxycarbonylbiphenyl-4-yl)methyl]-2-butyl-4-(1-hydroxy-1-methylethyl)imidazole-5-carboxylate (Compound No. 1-118)
Following a procedure similar to that described in Example 1(a), but using 0.92 g of ethyl 2-butyl-4-(1-hydroxy-1-methylethyl)imidazole-5-carboxylate (prepared as described in Preparation 8) and 1.28 g of t-butyl 4'-bromomethylbiphenyl-2-carboxylate, 1.23 g of the title compound were obtained as crystals, melting at 92°-93° C.

reactant | ethyl 2-butyl-4-(1-hydroxy-1-methylethyl)imidazole-5-carboxylate | 0.92 g | C(CCC)C=1NC(=C(N1)C(C)(C)O)C(=O)OCC | C13H22N2O3
reactant | t-butyl 4'-bromomethylbiphenyl-2-carboxylate | 1.28 g | BrCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C | C18H19BrO2
product | Ethyl 1-[(2'-t-butoxycarbonylbiphenyl-4-yl)methyl]-2-butyl-4-(1-hydroxy-1-methylethyl)imidazole-5-carboxylate | 1.23 g | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1C(=O)OCC)C(C)(C)O)CCCC | C31H40N2O5
